US06969725B2
In analogy to the procedure described in example 1 f], (2S)-2-ethoxy-3-(2-fluoro-4-hydroxy-phenyl)-propionic acid methyl ester (example 13 f]) was reacted with 4-chloromethyl-5-methyl-2-o-tolyl-oxazole (example 1 e]) in the presence of cesium carbonate and potassium iodide to yield (S)-2-ethoxy-3-[2-fluoro-4-(5-methyl-2-o-tolyl-oxazol-4-ylmethoxy)-phenyl]-propionic acid methyl ester as colorless oil.

reactant | (2S)-2-ethoxy-3-(2-fluoro-4-hydroxy-phenyl)-propionic acid methyl ester | COC([C@H](CC1=C(C=C(C=C1)O)F)OCC)=O | C12H15FO4
reactant | 4-chloromethyl-5-methyl-2-o-tolyl-oxazole | ClCC=1N=C(OC1C)C1=C(C=CC=C1)C | C12H12ClNO
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | potassium iodide | [I-].[K+]
product | (S)-2-ethoxy-3-[2-fluoro-4-(5-methyl-2-o-tolyl-oxazol-4-ylmethoxy)-phenyl]-propionic acid methyl ester | COC([C@H](CC1=C(C=C(C=C1)OCC=1N=C(OC1C)C1=C(C=CC=C1)C)F)OCC)=O | C24H26FNO5
